US08030334B2
A flask is charged with 3-amino-5-bromo pyridine (1.00 g, 5.78 mmol), phthalic anhydride (0.856 g, 5.78 mmol) and acetic acid (20 mL). The reaction is refluxed overnight. The reaction is then cooled to room temperature and concentrated in vacuo. The crude is dissolved in ethyl acetate and washed with water once. The organic layer is dried over sodium sulfate and concentrated in vacuo to afford 2-(5-bromo-pyridin-3-yl)-isoindole-1,3-dione. MS (ESI) m/z 305.1 (M+H)+

reactant | 3-amino-5-bromo pyridine | 5.78 mmol, 1.00 g | NC=1C=NC=C(C1)Br | C5H5BrN2
reactant | phthalic anhydride | 5.78 mmol, 0.856 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2-(5-bromo-pyridin-3-yl)-isoindole-1,3-dione | BrC=1C=C(C=NC1)N1C(C2=CC=CC=C2C1=O)=O | C13H7BrN2O2
